US07405210B2
Preparation 57: 5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid
Pyruvic acid (0.43 ml, 6.24 mmol) was added to a solution of 5-chloro-3-iodopyridin-2-ylamine (Preparation 56, 500 mg, 2.08 mmol), palladium acetate (23 mg, 0.10 mmol) and DABCO (700 mg, 6.24 mmol) in anhydrous DMF (20 ml). The reaction mixture was degassed with argon for 20 min, then heated to 110° C. for 16 h. The solvent was removed in vacuo and the residue suspended in water (10 ml) and acetic acid (5 ml) and then filtered. The solid was dissolved in EtOAc (50 ml), extracted into 2N NaOH solution (50 ml) and the organic layer discarded. The aqueous solution was acidified with concentrated HCl and extracted into EtOAc (2×40 ml). The combined organics were dried (MgSO4) and concentrated in vacuo to give the title compound as a beige solid. δH (CD3OD): 7.14 (1H, s), 8.14 (1H, d), 8.35 (1H, d).

reactant | Pyruvic acid | 6.24 mmol, 0.43 ml | C(C(=O)C)(=O)O | C3H4O3
reactant | 5-chloro-3-iodopyridin-2-ylamine | 2.08 mmol, 500 mg | ClC=1C=C(C(=NC1)N)I | C5H4ClIN2
reactant | DABCO | 6.24 mmol, 700 mg | C1CN2CCN1CC2 | C6H12N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.10 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | ClC=1C=C2C(=NC1)NC(=C2)C(=O)O | C8H5ClN2O2
